US07109354B2
a) 4-Bromo-5-nitro-thiophene-2-carbaldehyde
A solution of potassium nitrate (110 g, 1.09 mol) in H2SO4 (550 mL, conc.) was added to a solution of 4-bromo-thiophene-2-carbaldehyde (207.6 g, 1.08 mol) in H2SO4 (1.1 L, conc.) at CH2Cl2 (5 mL, anhydrous) at 0° C. over a 45 minute period. The reaction mixture was stirred 0° C. for 2 hrs, then stirred overnight at rt. The reaction mixture was poured over ice, filtered, and washed with water and hexanes. The yellow solid was dried overnight to afford the title compound (251.4 g, 98.6%). 1H-NMR (DMSO-d6): δ 9.90 (s, 1H), 8.56 (s, 1H).

reactant | potassium nitrate | 1.09 mol, 110 g | [N+](=O)([O-])[O-].[K+]
reactant | 4-bromo-thiophene-2-carbaldehyde | 1.08 mol, 207.6 g | BrC=1C=C(SC1)C=O | C5H3BrOS
reactant | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | H2SO4 | 550 mL | OS(=O)(=O)O | H2O4S
solvent | H2SO4 | 1.1 L | OS(=O)(=O)O | H2O4S
product | 4-Bromo-5-nitro-thiophene-2-carbaldehyde | 251.4 g, 98.6% | BrC=1C=C(SC1[N+](=O)[O-])C=O | C5H2BrNO3S
